US09260416B2
Step 1: 2-[6-Chloro-1-(1-isopropyl-1H-pyrazol-4-yl)-2-methyl-1H-indol-3-ylsulfanyl]-isonicotinic acid methyl ester
Prepared according to the procedure described in Example 3, Step 1, using the following starting materials: 2-(6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-isonicotinic acid methyl ester and 4-bromo-1-isopropyl-1H-pyrazole.

reactant | 2-(6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SC1=C(NC2=CC(=CC=C12)Cl)C)=O | C16H13ClN2O2S
reactant | 4-bromo-1-isopropyl-1H-pyrazole | BrC=1C=NN(C1)C(C)C | C6H9BrN2
product | 2-[6-Chloro-1-(1-isopropyl-1H-pyrazol-4-yl)-2-methyl-1H-indol-3-ylsulfanyl]-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SC1=C(N(C2=CC(=CC=C12)Cl)C=1C=NN(C1)C(C)C)C)=O | C22H21ClN4O2S
